US06713499B2
To a stirred solution of 41 mg (0.29 mmol) 4-fluoro-benzoic acid in 1 ml THF were added 128 mg (0.34 mmol) HATU and 0.10 ml (0.56 mmol) N-ethyldiisopropylamine and stirring continued at room temperature for 2.5 h. 50 mg (0.22 mmol) 4-methoxy-N7,N7-dimethyl-benzothiazole-2,7-diamine was then added and stirring continued at room temperature for 16 h. The reaction mixture was then concentrated in vactio. Flash chromatography (ethyl acetate/hexane) afforded 64 mg (83%) N-(7-dimethylamino-4-methoxy-benzothiazol-2-yl)-4-fluoro-benzamide as a white crystalline solid. ES-MS m/e (%): 346 (M+H +, 100).

reactant | 4-fluoro-benzoic acid | 0.29 mmol, 41 mg | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | HATU | 0.34 mmol, 128 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-ethyldiisopropylamine | 0.56 mmol, 0.10 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-methoxy-N7,N7-dimethyl-benzothiazole-2,7-diamine | 0.22 mmol, 50 mg | COC1=CC=C(C2=C1N=C(S2)N)N(C)C | C10H13N3OS
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | N-(7-dimethylamino-4-methoxy-benzothiazol-2-yl)-4-fluoro-benzamide | 64 mg, 83% | CN(C1=CC=C(C=2N=C(SC21)NC(C2=CC=C(C=C2)F)=O)OC)C | C17H16FN3O2S
